US07419982B2
To sodium hydride (60% in mineral oil, 2.3 g, 57.6 mmol) in 20 mL of dimethylsulfoxide at room temperature is added a solution of 3-(methylamino)propan-1-ol (5.14 g, 57.6 mmol) in 10 mL of dimethylsulfoxide. The solution is stirred at room temperature for 1 h, and 5-chloro-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine (5.7 g, 14.4 mmol) is added. The mixture is heated at 60° C. for 3 h, and cooled to room temperature. The reaction mixture is diluted with ethyl acetate, and washed with water and saturated sodium chloride. The organic layer is dried over magnesium sulfate, and concentrated to a residue. The residue is triturated with small amount of acetone, then hexanes, and chromatographed over silica gel, eluting with a gradient of 100% ethyl acetate to 100% methyl alcohol. Concentration provides 5-chloro-6-{2,6-difluoro-4-[3-(methylamino) propoxy]phenyl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine as a white solid (2.7 g). MS: m/z 465.1 (M+H).

reactant | sodium hydride | 57.6 mmol, 2.3 g | [H-].[Na+]
reactant | 3-(methylamino)propan-1-ol | 57.6 mmol, 5.14 g | CNCCCO | C4H11NO
reactant | 5-chloro-6-(2,4,6-trifluorophenyl)-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 14.4 mmol, 5.7 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)N=CN2 | C14H8ClF6N5
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-6-{2,6-difluoro-4-[3-(methylamino) propoxy]phenyl}-N-[(1S)-2,2,2-trifluoro-1-methylethyl][1,2,4]triazolo[1,5-a]pyrimidin-7-amine | 2.7 g | ClC1=NC=2N(C(=C1C1=C(C=C(C=C1F)OCCCNC)F)N[C@H](C(F)(F)F)C)N=CN2 | C18H18ClF5N6O
